US07008950B1
3-(4-Isopropylphenyl)-5-(2,4-dinitrophenyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran (800 mg, 1.63 mmol) and 10% palladium-carbon (hydrate) (80 mg) were dispersed in ethanol (40 mL), and the mixture was stirred in a hydrogen atmosphere at 60° C. for 4 hours. The reaction mixture, from which was removed the catalyst through filtration, was concentrated under reduced pressure to obtain 5-(2,4-diaminophenoxy)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran (710 mg). Acetyl chloride (0.26 mL, 3.63 mmol) was added to a solution of the thus-obtained compound (710 mg, 1.65 mmol) and triethylamine (290 mg, 1.70 mmol) in chloroform (30 mL) at 0° C., and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was poured into water (30 mL), and extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=1/5) to obtain the title compound (640 mg, yield 76%). This was amorphous.

reactant | 3-(4-Isopropylphenyl)-5-(2,4-dinitrophenyloxy)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | 1.63 mmol, 800 mg | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C)(C)C | C28H30N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 80 mg | [C].[Pd]
product | 5-(2,4-diaminophenoxy)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | 710 mg | NC1=C(OC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=CC(=C1)N | C28H34N2O2
